US06583089B1
Methyl 2-mercapto-4-chlorobenzoate
Over a period of 1.5 hours, 243.5 g (3.7 mol) of zinc powder were added a little at a time to a suspension of 205 g (0.75 mol) of methyl 2-chlorosulfonyl-4-chlorobenzoate in 1 l of concentrated hydrochloric acid and 375 g of ice. Stirring was continued for 3 hours, and the mixture was then slowly heated to 70° C. After 2 hours at this temperature, the mixture was cooled. The reaction mixture was allowed to stand at room temperature for 12 hours and then extracted with ethyl acetate, the combined organic phases [lacuna] and the solvent was removed. This gave 125.4 g (83%) of methyl 2-mercapto-4-chlorobenzoate.

reactant | methyl 2-chlorosulfonyl-4-chlorobenzoate | 0.75 mol, 205 g | ClS(=O)(=O)C1=C(C(=O)OC)C=CC(=C1)Cl | C8H6Cl2O4S
solvent | hydrochloric acid | 1 l | Cl | ClH
catalyst | zinc | 3.7 mol, 243.5 g | [Zn] | Zn
product | Methyl 2-mercapto-4-chlorobenzoate | SC1=C(C(=O)OC)C=CC(=C1)Cl | C8H7ClO2S
